US09168245B2
Synthesis of intermediate III-b: (5-Methoxy-2-methyl-phenyl)-thiourea
To a solution of KSCN (780 mg, 8.02 mmol) in acetone (10 mL) was added dropwise at room temperature as solution of AcCl (900 μL, 8.02 mmol) in acetone (10 mL). The reaction mixture was stirred for 15 min at 50° C. Then, a solution of 5-methoxy-2-methylaniline (1.0 g, 7.29 mmol) in acetone (10 mL) was added and the reaction mixture was stirred at 50° C. for 15 min. Water was added and the solid was filtered, washed with more water and ether to give a white solid. A solution of the latter with K2CO3 (2.0 g, 14.58 mmol) in MeOH (20 mL) was stirred at room temperature for 3 h. MeOH was removed under reduced pressure and the solid was washed with water and ether to give III-b as a white solid in 78% yield. 1H NMR (300 MHz, DMSO-d6) δ 9.20 (s, 1H), 7.13 (d, J=8.4 Hz, 1H), 6.81 (d, J=2.4 Hz, 1H), 6.75 (dd, J=8.3, 2.6 Hz, 1H), 3.71 (s, 3H), 2.10 (s, 3H).

reactant | KSCN | 8.02 mmol, 780 mg | C(#N)[S-].[K+]
reactant | AcCl | 8.02 mmol, 900 μL | C(=O)(C)Cl | C2H3ClO
reactant | 5-methoxy-2-methylaniline | 7.29 mmol, 1.0 g | COC=1C=CC(=C(N)C1)C | C8H11NO
reactant | K2CO3 | 14.58 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | MeOH | 20 mL | CO | CH4O
solvent | Water | O | H2O
product | (5-Methoxy-2-methyl-phenyl)-thiourea | 78% yield | COC=1C=CC(=C(C1)NC(=S)N)C | C9H12N2OS
